US04675397
To a solution of 221 mg of sodium cis-3[2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-methoxyiminoacetamido]-4-[2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-methoxyimino-acetoxymethyl]-2-oxoazetidine-1-sulfonate in 10 ml of water is added under ice-cooling 85 mg of sodium monomethyldithiocarbamate with stirring. The mixture is stirred at room temperature for one hour, followed by addition of 40 mg of sodium monomethyldithiocarbamate. The mixture is stirred at room temperature for further one hour. The reaction mixture is washed with ethyl acetate and ether in this order, followed by concentration under reduced pressure. The concentrate is purified by a column chromatography on Amberlite XAD-II, followed by lyophilization to give sodium cis-3-[2-(2-amino-4-thiazolyl)-(Z)-2-methoxyiminoacetamido]-4-[2-(2-amino-4-thiazolyl)-(Z)-2-methoxyiminoacetoxymethyl]-2-oxoazetidine-1-sulfonate.

reactant | sodium cis-3[2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-methoxyiminoacetamido]-4-[2-(2-chloroacetamido-4-thiazolyl)-(Z)-2-methoxyimino-acetoxymethyl]-2-oxoazetidine-1-sulfonate | 221 mg | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(\C(=N/OC)\C=1N=C(SC1)NC(CCl)=O)=O)S(=O)(=O)[O-])=O)=N/OC.[Na+]
reactant | sodium monomethyldithiocarbamate | 85 mg | CSC(N)=S.[Na]
reactant | sodium monomethyldithiocarbamate | 40 mg | CSC(N)=S.[Na]
solvent | water | 10 ml | O | H2O
product | sodium cis-3-[2-(2-amino-4-thiazolyl)-(Z)-2-methoxyiminoacetamido]-4-[2-(2-amino-4-thiazolyl)-(Z)-2-methoxyiminoacetoxymethyl]-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(\C(=N/OC)\C=1N=C(SC1)N)=O)S(=O)(=O)[O-])=O)=N/OC.[Na+] | InChI=1S/C16H18N8O9S3.Na/c1-31-22-9(6-4-34-15(17)19-6)12(25)21-11-8(24(13(11)26)36(28,29)30)3-33-14(27)10(23-32-2)7-5-35-16(18)20-7;/h4-5,8,11H,3H2,1-2H3,(H2,17,19)(H2,18,20)(H,21,25)(H,28,29,30);/q;+1/p-1/b22-9-,23-10-;/t8-,11+;/m1./s1
